US04361563
1-Methyl-2-(4-methoxy-phenyl)-5-(5-methyl-3-oxo-4,5-dihydro-2H-6-pyridazinyl)-benzimidazole
A mixture of 6.4 gm of 5-methyl-6-{3-nitro-4-[N-methyl-(4-methoxy-benzoyl)-amino]-phenyl}-4,5-dihydro-2H-pyridazine-3-one and 0.6 gm of 10% palladium charcoal in 100 ml of ethanol was treated for 2.5 hours at room temperature with hydrogen at 5 bar. The catalyst was suction filtered off, and the filtrate was evaporated in vacuo. The residue was purified by chromatography on silicagel (eluting agent: methylene chloride/ethanol 19:1 to 9:1). The corresponding fractions were evaporated and the product was crystallized by trituration with ether.

reactant | 5-methyl-6-{3-nitro-4-[N-methyl-(4-methoxy-benzoyl)-amino]-phenyl}-4,5-dihydro-2H-pyridazine-3-one | 6.4 gm | CC1CC(NN=C1C1=CC(=C(C=C1)N(C)C(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O | C20H20N4O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium charcoal | 0.6 gm | [Pd] | Pd
product | 1-Methyl-2-(4-methoxy-phenyl)-5-(5-methyl-3-oxo-4,5-dihydro-2H-6-pyridazinyl)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)C=2C(CC(NN2)=O)C)C2=CC=C(C=C2)OC | C20H20N4O2
